US07169789B2
N-(2,4-Difluorophenyl)-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-fluorophenyl}urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-fluoro-aniline (50 mg) was dissolved in chloroform (3 ml), and 2,4-difluorophenyl isocyanate (29 μl) was then added to the solution. The mixture was stirred at 60° C. overnight. The precipitated crystal was collected by filtration and was washed to give. 50 mg (yield 67%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-fluoro-aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(N)C=C1)F | C16H14FN3O3
reactant | 2,4-difluorophenyl isocyanate | 29 μl | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2,4-Difluorophenyl)-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-fluorophenyl}urea | 50 mg, yield 67% | FC1=C(C=CC(=C1)F)NC(=O)NC1=C(C=C(C=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)F | C23H17F3N4O4
